US20010027200A1
A solution of 2-chloro-5-nitrobenzoic acid (26 g) in ethanol (260 mL) and concentrated sulfuric acid (1 mL) was heated at reflux for 18 hr. The reaction mixture was cooled and K2CO3 was added to quench the reaction. The resulting mixture was filtered and concentrated. The residue was then suspended in ether and filtered to remove insoluble starting acid. The filtrate was washed with 4% KOH (110 mL), dried over MgSO4 and concentrated to provide 16.2 g of ethyl 2-chloro-5-nitrobenzoate as a colorless oil which solidified on standing.

reactant | 2-chloro-5-nitrobenzoic acid | 26 g | ClC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | ethanol | 260 mL | C(C)O | C2H6O
solvent | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
product | ethyl 2-chloro-5-nitrobenzoate | 16.2 g | ClC1=C(C(=O)OCC)C=C(C=C1)[N+](=O)[O-] | C9H8ClNO4
